US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]benzamide hydrochloride
tert-Butyl(trans-2-{4-[(phenylcarbonyl)amino]phenyl}cyclopropyl)carbamate (212 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 2 hr and the solvent was evaporated under reduced pressure to give the title compound (148 mg).

reactant | tert-Butyl(trans-2-{4-[(phenylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 212 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=CC=C1)=O | C21H24N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]benzamide hydrochloride | 148 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | InChI=1S/C16H16N2O.ClH/c17-15-10-14(15)11-6-8-13(9-7-11)18-16(19)12-4-2-1-3-5-12;/h1-9,14-15H,10,17H2,(H,18,19);1H/t14-,15+;/m0./s1
